US06720320B2
2-(4-methoxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 37 using N′-(4-methoxybenzo(b)furan-2-ylcarbonyl)trifluoroacetohydrazide (5.2 g), triethylamine (7.2 ml), triphenylphosphine (9.0 g) and diethyl azodicarboxylate (40% toluene solution, 6.2 ml), the title compound (4.0 g) was obtained as pale-yellow crystals.

reactant | N′-(4-methoxybenzo(b)furan-2-ylcarbonyl)trifluoroacetohydrazide | 5.2 g | COC1=CC=CC=2OC(=CC21)C(=O)NNC(C(F)(F)F)=O | C12H9F3N2O4
reactant | triphenylphosphine | 9.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | triethylamine | 7.2 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-methoxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole | 4.0 g | COC1=CC=CC=2OC(=CC21)C=2OC(=NN2)C(F)(F)F | C12H7F3N2O3
